US05929067
a) 3-Oxo-4-(2-naphthyl)-butanoic acid ethyl ester
16.8 g (103 mmol) of carbonyldiimidazole are added in one portion at 0° C. to a solution of 17.5 g (94 mmol) of naphthylacetic acid in 180 ml of tetrahydrofuran. With foaming, a thick white suspension is formed. After 2 hours the reaction mixture is heated to room temperature and 32.2 g (108 mmol) of magnesium bis(monoethyl malonate) (D. W. Brooks, L. D.-L. Lu & S. Masamune; Angew. Chem. 91, 76 (1979)) are added. After 18 hours' stirring at room temperature, 150 ml of ice-cold 6N hydrochloric acid are added; ether is added and the organic phase is separated off. The organic phase is washed with saturated aqueous sodium hydrogen carbonate solution and with brine. The title compound is obtained in the form of a slightly yellow oil.

reactant | carbonyldiimidazole | 103 mmol, 16.8 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | naphthylacetic acid | 94 mmol, 17.5 g | C1(=CC=CC2=CC=CC=C12)CC(=O)O | C12H10O2
reactant | magnesium bis(monoethyl malonate) | 108 mmol, 32.2 g | C(C)C(C(=O)[O-])C(=O)[O-].C(C)C(C(=O)[O-])C(=O)[O-].[Mg+2].[Mg+2]
reactant | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
product | 3-Oxo-4-(2-naphthyl)-butanoic acid ethyl ester | C(C)OC(CC(CC1=CC2=CC=CC=C2C=C1)=O)=O | C16H16O3
